US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 5-chloro-6-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-6-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 5-chloro-6-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC1=C(SC=2N=CN=C(C21)NCCC2=CC1=C(C=C2)OCO1)C | C16H14ClN3O2S
product | 2-(2-methylimidazol-1-yl)-6-methyl-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC(=C2)C)NCCC2=CC1=C(C=C2)OCO1 | C20H19N5O2S
